US07820654B2
Synthesis of 1-[4-(3-chloro-4-hydroxy-phenylamino)-6-phenyl-pyrimidin-2-yl]-pyrrolidine-2,5-dione
To a solution of compound 4-(2-amino-6-phenyl-pyrimidin-4-ylamino)-2-chloro-phenol (0.5 g, 1.6 mmol) in dry dimethylformamide (10 mL) was added 4-(N,N-dimethylamino)pyridine (0.39 g, 3.2 mmol) at 0° C. with stirring under nitrogen atmosphere. To this was added freshly prepared succinyl chloride (0.62 g, 4 mmol). The mixture was then stirred at 80° C. for 20 hours. After completion of the reaction the mixture was diluted with water (75 mL), the solid separated was filtered off, washed with cold water (200 mL) and dried. The solid was purified further by column chromatography using petroleum ether-ethyl acetate to give the desired product as a light brown solid.

reactant | 4-(2-amino-6-phenyl-pyrimidin-4-ylamino)-2-chloro-phenol | 1.6 mmol, 0.5 g | NC1=NC(=CC(=N1)NC1=CC(=C(C=C1)O)Cl)C1=CC=CC=C1 | C16H13ClN4O
reactant | succinyl chloride | 4 mmol, 0.62 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 3.2 mmol, 0.39 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | 75 mL | O | H2O
product | 1-[4-(3-chloro-4-hydroxy-phenylamino)-6-phenyl-pyrimidin-2-yl]-pyrrolidine-2,5-dione | ClC=1C=C(C=CC1O)NC1=NC(=NC(=C1)C1=CC=CC=C1)N1C(CCC1=O)=O | C20H15ClN4O3
